US07495007B2
Preparation of racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-chloro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A mixture of racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-chloro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (200 mg), NaOH (80 mg), H2O (5 mL) and THF (2 mL) was heated at 80° C. for 2 h. Then the mixture was concentrated. The remaining aqueous solution was acidified to “pH” 2 by concentrated aqueous HCl solution (1.5 mL). The white precipitate was collected by filtration to give the title compound as a white solid (Yield: 100 mg).

reactant | racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-chloro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 200 mg | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)Cl)C)C(NC1=CC(=CC=C12)Cl)=O)OC(C)(C)C(=O)OCC | C31H29BrCl2N2O5
reactant | NaOH | 80 mg | [OH-].[Na+]
reactant | H2O | 5 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-chloro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield: 100 mg | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)Cl)C)C(NC1=CC(=CC=C12)Cl)=O)OC(C)(C)C(=O)O | C29H25BrCl2N2O5
